US09446035B2
A solution of 5-(4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-3-carbaldehyde (LVII) (0.120 g, 0.37 mmol), 3,4-diaminopyridine (LVIII) (42 mg, 0.39 mmol) and sulfur (13 mg, 0.39 mmol) in dry DMF (5 mL) was heated at 140° C. under nitrogen for 12 h. The solution was cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was dissolved in DCM and washed with water (1×20 mL). The organic layer was dried over MgSO4, filtered and concentrated to yield 3-(3H-imidazo[4,5-c]pyridin-2-yl)-5-(4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine (LIX). The crude product was used directly for step 3 without further purification. ESIMS found for C23H21N7O m/z 412.7 (M+H).

reactant | 5-(4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-3-carbaldehyde | 0.37 mmol, 0.120 g | CC1=C(C=NC=C1)C=1C=C2C(=NC1)N(N=C2C=O)C2OCCCC2 | C18H18N4O2
reactant | 3,4-diaminopyridine | 0.39 mmol, 42 mg | NC=1C=NC=CC1N | C5H7N3
reactant | sulfur | 0.39 mmol, 13 mg | [S] | S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(3H-imidazo[4,5-c]pyridin-2-yl)-5-(4-methylpyridin-3-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine | N1=C(NC=2C=NC=CC21)C2=NN(C1=NC=C(C=C12)C=1C=NC=CC1C)C1OCCCC1 | C23H21N7O
